US07268236B2
The 1-benzyl-3-aminopyrrolidine monomethanesulfonate (2 g) was dissolved in water (5 mL). And then 30% sodium hydroxide was added to the solution to isolate 1-benzyl-3-aminopyrrolidine. The solution was extracted with toluene (20 mL) and then concentrated. Thus, oily 1-benzyl-3-aminopyrrolidine (1.10 g) was recovered.

reactant | 1-benzyl-3-aminopyrrolidine monomethanesulfonate | 2 g | CS(=O)(=O)O.C(C1=CC=CC=C1)N1CC(CC1)N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 5 mL | O | H2O
product | 1-benzyl-3-aminopyrrolidine | C(C1=CC=CC=C1)N1CC(CC1)N | C11H16N2
